US05183925
10 g of (3RS)-1-(trimethylsilyl)-1-undecin-3-ol is dissolved in a mixture of 420 ml of 0.1 n sodium hydroxide solution and 420 ml of methanol and stirred for 3 hours at room temperature. Then, the methanol is removed in a vacuum, shaken with diethyl ether, dried (Na2SO4) and concentrated by evaporation. 6.46 g of (3RS)-1-undecin-3-ol is obtained as a yellow oil, which is further reacted as a crude product.

reactant | (3RS)-1-(trimethylsilyl)-1-undecin-3-ol | 10 g | C[Si](C#CC(CCCCCCCC)O)(C)C | C14H28OSi
solvent | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 420 ml | CO | CH4O
product | (3RS)-1-undecin-3-ol | 6.46 g | C#CC(CCCCCCCC)O | C11H20O
